US05051420
1-[2-[4-(1H-Imidazol-1-yl)-1,2,5-thiadiazol-3-yloxy]ethyl]pyrrolidine
Following the procedures of Example 1, the title compound is prepared from 3-chloro-4-(1H-imidazol-1-yl)-1,2,5-thiadiazole and 1-(2-hydroxyethyl)pyrrolidine.

reactant | 3-chloro-4-(1H-imidazol-1-yl)-1,2,5-thiadiazole | ClC1=NSN=C1N1C=NC=C1 | C5H3ClN4S
reactant | 1-(2-hydroxyethyl)pyrrolidine | OCCN1CCCC1 | C6H13NO
product | 1-[2-[4-(1H-Imidazol-1-yl)-1,2,5-thiadiazol-3-yloxy]ethyl]pyrrolidine | N1(C=NC=C1)C=1C(=NSN1)OCCN1CCCC1 | C11H15N5OS
